US08871756B2
tert-Butyl [1-(hydroxymethyl)cyclopropyl]carbamate
To a cooled solution of methyl 1-[(tert-butoxycarbonyl)amino]cyclopropanecarboxylate (1.2 g, 5.6 mmol) in tetrahydrofuran (10 mL) at 0° C. was added dropwise a solution of lithium borohydride (244 mg, 11.2 mmol) in tetrahydrofuran (10 mL) The reaction mixture was allowed to warm to room temperature and stirred at this temperature overnight. The reaction was quenched by addition of water (10 mL) and the resulting mixture was extracted with dichloromethane. The organic layer was dried over sodium sulfate and concentrated in vacuo to afford 0.8 g of the product (yield was 76.2%).

reactant | methyl 1-[(tert-butoxycarbonyl)amino]cyclopropanecarboxylate | 5.6 mmol, 1.2 g | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)OC | C10H17NO4
reactant | lithium borohydride | 11.2 mmol, 244 mg | [BH4-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-Butyl [1-(hydroxymethyl)cyclopropyl]carbamate | 0.8 g, yield was 76.2% | OCC1(CC1)NC(OC(C)(C)C)=O | C9H17NO3
